US08754079B2
V.3. trans-N-[4-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-N-methylmethanesulfonamide
Prepared analogously to example IV.3 from 0.305 g trans-[4-(5-fluoro-2-nitrophenoxy)-cyclohexyl]-methyl-amine hydrochloride and methanesulfonyl chloride.

reactant | trans-[4-(5-fluoro-2-nitrophenoxy)-cyclohexyl]-methyl-amine hydrochloride | 0.305 g | Cl.FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)NC)C1)[N+](=O)[O-]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | trans-N-[4-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-N-methylmethanesulfonamide | FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)N(S(=O)(=O)C)C)C1)[N+](=O)[O-] | C14H19FN2O5S
